### PR TITLE
[Merged by Bors] - feat: primitive group actions

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR defines the notion of a primitive action.

This concept is used to state the Iwasawa criterion for simplicity of #12048

---

- [x] depends on: #12023 
- [x] depends on: #12049 
- [x] depends on: #13995
- [x] depends on: #14029
- [x] depends on: #19171
- [x] depends on: #20498
- [x] depends on: #21284
- [x] depends on: #21285
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/SMul.lean [hunk 1]
```diff
@@ -1034,6 +1034,22 @@ lemma inv_op_smul_set_distrib (a : α) (s : Set α) : (op a • s)⁻¹ = a⁻¹
 lemma smul_set_disjoint_iff : Disjoint (a • s) (a • t) ↔ Disjoint s t := by
   simp [disjoint_iff, ← smul_set_inter]
 
+example (a : α) (s : Set β) : a • s = (fun b ↦ a • b) '' s := by
+  rw [@image_smul]
+
+@[to_additive]
+lemma smul_set_iInter {ι : Type*} (a : α) (s : ι → Set β) :
+    (a • ⋂ i, s i) = ⋂ i, a • s i := by
```
Comment (alreadydone) [inline Mathlib/Data/Set/Pointwise/SMul.lean:1042]: This is a special case of [Set.image_iInter](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Lattice.html#Set.image_iInter)

**Comment by semorrison** [comment]
You are significantly increasing the imports for some files, e.g. Mathlib.GroupTheory.MaximalSubgroups

Can you reorganise to avoid this?

**Comment by semorrison** [comment]
Also, there are some unresolved conversations above.

**Comment by AntoineChambert-Loir** [comment]
@semorrison I resolved the open conversations, I am sorry to have let them open.
(In some cases, they corresponded to requests that I don't feel were closed by my modifications and I expected some further approval by the reviewer.)
I don't understand your request about the imports, and especially about Mathlib.GroupTheory.MaximalSubgroups
It is a new file that contains results analogous to those pertaining to maximal ideals.
In any case, I stay at your disposal to work in the required direction.

**Comment by semorrison** [comment]
Oops, sorry my mistake not understanding from the import report that it was a new file. 🤦‍♀️ 

No objections from me.

**Comment by tb65536** [comment]
I think this PR depends on #14029. Can you mark it as such?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 2]
```diff
@@ -0,0 +1,365 @@
+/-
+Copyright (c) 2022 Antoine Chambert-Loir. All rights reserved.
```
Comment (urkud) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:2]: 2022?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 3]
```diff
@@ -0,0 +1,365 @@
...
+
+- `IsPreprimitive G X`
+a structure that says that the action of a type `G`
+on a type `X` (defined by an instance `SMul G X`) is *preprimitive*,
+namely, it is pretransitive and the only blocks are ⊤ and subsingletons.
+(The pretransitivity assumption is essentially trivial,
+because orbits are blocks, unless the action itself is trivial.)
+
+The notion which is introduced in classical books on group theory
+is restricted to `mul_action` of groups.
```
Comment (urkud) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:25]:
```suggestion
is restricted to `MulAction` of groups.
```

Comment (urkud) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:25]: It would be nice to have some examples that satisfy each of the weaker typeclasses while not satisfying the stronger ones, as well as some explanation why these notions are interesting.

File: Mathlib/GroupTheory/MaximalSubgroups.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+
+-/
+
+
+variable {G : Type*} [Group G]
+
+namespace Subgroup
+
+/-- A subgroup is maximal if it is maximal in the collection of proper subgroups. -/
+class IsMaximal (K : Subgroup G) : Prop where
```
Comment (urkud) [inline Mathlib/GroupTheory/MaximalSubgroups.lean:36]: I see that you define it as a typeclass, then use as `(h : K.IsMaximal)`, not `[K.IsMaximal]`. If you're going to use it as a predicate, why not use `IsCoatom` instead?

File: Mathlib/GroupTheory/MaximalSubgroups.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+  out : IsCoatom K
+
+theorem isMaximal_def {K : Subgroup G} : K.IsMaximal ↔ IsCoatom K :=
+  ⟨fun h => h.1, fun h => ⟨h⟩⟩
+
+theorem IsMaximal.ne_top {K : Subgroup G} (h : K.IsMaximal) : K ≠ ⊤ :=
+  (isMaximal_def.1 h).1
+
+theorem isMaximal_iff {K : Subgroup G} :
+    K.IsMaximal ↔ K ≠ ⊤ ∧ ∀ (H : Subgroup G) (g), K ≤ H → g ∉ K → g ∈ H → H = ⊤ := by
```
Comment (urkud) [inline Mathlib/GroupTheory/MaximalSubgroups.lean:47]: This should be true for any `SetLike` with `OrderTop`, if you use `IsCoatom` instead of a custom typeclass. Something like `simp [IsCoatom, SetLike.lt_iff_le_and_exists]` should work (not tested).

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:2]: The lean3 version is that old, yes…

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:25]: I understand. I can easily give examples in the docstring. It might be more difficult to formalize them right now (for example, can we state the action of SO(3,R) on the sphere in mathlib? It is transitive, primitive, but not 2-transitive. It is in my plans to formalize those actions — for any quadratic form — and to prove the related results. Anisotropic forms are unfortunately more difficult.)

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 6]
```diff
@@ -0,0 +1,365 @@
...
+end IsTrivialBlock
+
+section Primitive
+
+variable (G : Type*) (X : Type*)
+
+-- Note : if the action is degenerate, singletons may not be blocks.
+/-- An action is preprimitive if it is pretransitive and
+  the only blocks are the trivial ones -/
+class IsPreprimitive [SMul G X] extends IsPretransitive G X : Prop where
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:115]: I hadn't made the effort to formalize blocks for actions of additive groups, but they now exist, thanks to work of @YaelDillies , so I can add the `[to_additive]` tags.

File: Mathlib/GroupTheory/MaximalSubgroups.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/MaximalSubgroups.lean:36]: For the typeclass/predicate, it's not clear to me whether we want a class or a structure. I believe I copied what was done for maximal ideals, hence the class…

File: Mathlib/GroupTheory/MaximalSubgroups.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/MaximalSubgroups.lean:47]: I'll try.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/MaximalSubgroups.lean:56]: Before I embark in this, I would like your opinion: this is done in a similar way for maximal ideals, see https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Maximal.html#Ideal.isMaximal_iff 
It makes no sense to make things differently, that would be out of the scope of the present PR to redefine maximal ideals.

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:125]: I have added all possible to_additive tags.

**Comment by YaelDillies** [comment]
Sorry for the delay reviewing. This PR is quite big and I am failing to justify why. Could you split it along something like
1. Instance renaming
2. Missing `to_additive`
3. Maximal subgroups
4. Primitive actions (stay in this PR, depend on 2 and 3)

**Comment by AntoineChambert-Loir** [comment]
I cancelled step 1. (Master does this better.)

**Comment by AntoineChambert-Loir** [comment]
Step 2 is #20498

**Comment by AntoineChambert-Loir** [comment]
Step 3 is #20499

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 7]
```diff
@@ -0,0 +1,410 @@
...
+  cases Set.eq_empty_or_nonempty B with
+  | inl h => left; rw [h]; exact Set.subsingleton_empty
+  | inr h =>
+    obtain ⟨b, hb⟩ := h
+    obtain ⟨g, hg⟩ := exists_smul_eq G b a
+    rw [← IsTrivialBlock.smul_iff g]
+    exact H (g • B) ⟨b, hb, hg⟩ (hB.translate g)
+
+/-- If the action is not trivial, then the trivial blocks condition implies preprimitivity
+(pretransitivity is automatic) -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:219]:
```suggestion
/-- If the action is not trivial, then the trivial blocks condition implies preprimitivity
    (pretransitivity is automatic) -/
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 8]
```diff
@@ -0,0 +1,410 @@
...
+  intro h
+  rw [← Subtype.coe_inj] at h
+  simp only [Block.boundedOrderOfMem.top_eq, Block.boundedOrderOfMem.bot_eq] at h
+  obtain ⟨b, hb⟩ := exists_ne a
+  apply hb
+  rw [← Set.mem_singleton_iff, h, Set.top_eq_univ]
+  apply Set.mem_univ
+
+/-- A pretransitive action on a nontrivial type is preprimitive iff
+the set of blocks containing a given element is a simple order -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:310]:
```suggestion
/-- A pretransitive action on a nontrivial type is preprimitive iff
    the set of blocks containing a given element is a simple order -/
```

**Comment by YaelDillies** [comment]
Can you merge master to fix the messaging bot?

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 9]
```diff
@@ -69,10 +69,18 @@ section FixedPoints
 
 variable {M α}
 
+@[to_additive] theorem mem_fixedPoints_iff_subsingleton_orbit {a : α} :
+    a ∈ fixedPoints M α ↔ (orbit M a).Subsingleton := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:73]: What do you think of turning this around and making it simp?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 10]
```diff
@@ -20,7 +20,7 @@ Given `SMul G X`, an action of a type `G` on a type `X`, we define
   definition `MulAction.IsBlock.def_one`
 
 - a bunch of lemmas that give examples of “trivial” blocks : ⊥, ⊤, singletons,
-  and non trivial blocks: orbit of the group, orbit of a normal subgroup…
+and non trivial blocks: orbit of the group, orbit of a normal subgroup…
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:23]:
```suggestion
  and non trivial blocks: orbit of the group, orbit of a normal subgroup…
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 11]
```diff
@@ -346,6 +346,25 @@ theorem IsBlock.of_subgroup_of_conjugate {H : Subgroup G} (hB : IsBlock H B) (g
     rw [← this]; rfl
   rw [← hh, smul_smul (g * h * g⁻¹) g B, smul_smul g h B, inv_mul_cancel_right]
 
+theorem _root_.AddAction.IsBlock.of_addsubgroup_of_conjugate
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:349]:
```suggestion
theorem _root_.AddAction.IsBlock.of_addSubgroup_of_conjugate
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 12]
```diff
@@ -346,6 +346,25 @@ theorem IsBlock.of_subgroup_of_conjugate {H : Subgroup G} (hB : IsBlock H B) (g
...
+    {G : Type*} [AddGroup G] {X : Type*} [AddAction G X] {B : Set X}
+    {H : AddSubgroup G} (hB : AddAction.IsBlock H B) (g : G) :
+    AddAction.IsBlock (H.map (AddEquiv.toAddMonoidHom (AddAut.conj g))) (g +ᵥ B) := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:352]: Can the multiplicative version not be stated?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 13]
```diff
@@ -374,8 +393,8 @@ variable (G) in
  for the additive action of `G`"]
 def IsBlockSystem (ℬ : Set (Set X)) := Setoid.IsPartition ℬ ∧ ∀ ⦃B⦄, B ∈ ℬ → IsBlock G B
 
-/-- Translates of a block form a block system -/
-@[to_additive "Translates of a block form a block system"]
+/-- Translates of a block form a block system. -/
+@[to_additive]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:397]: Accident?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:1]: Looks like all of those changes are remnants from a bad merge

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 14]
```diff
@@ -0,0 +1,410 @@
+/-
+Copyright (c) 2024 Antoine Chambert-Loir. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir
+-/
+
+import Mathlib.GroupTheory.GroupAction.Blocks
+import Mathlib.GroupTheory.GroupAction.Transitive
+import Mathlib.Data.Setoid.Partition
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:9]: Can you keep imports alphabetical?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 15]
```diff
@@ -0,0 +1,410 @@
...
+The notion which is introduced in classical books on group theory
+is restricted to group actions.
+In fact, it may be irrelevant if the action is degenerate,
+when “trivial blocks” might not be blocks.
+Moreover, the classical notion is *primitive*,
+which assumes moreover that `X` is not empty.
+
+- `IsQuasipreprimitive G X`
+a structure that says that the action of the group `G` on the type `X` is *quasipreprimitive*,
+namely, normal subgroups of `G` which act nontrivially act pretransitively.
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:32]:
```suggestion
  a structure that says that the action of the group `G` on the type `X` is *quasipreprimitive*,
  namely, normal subgroups of `G` which act nontrivially act pretransitively.
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 16]
```diff
@@ -0,0 +1,410 @@
...
+namely, it is pretransitive and the only blocks are ⊤ and subsingletons.
+(The pretransitivity assumption is essentially trivial,
+because orbits are blocks, unless the action itself is trivial.)
+
+The notion which is introduced in classical books on group theory
+is restricted to group actions.
+In fact, it may be irrelevant if the action is degenerate,
+when “trivial blocks” might not be blocks.
+Moreover, the classical notion is *primitive*,
+which assumes moreover that `X` is not empty.
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:28]: Similarly, can you indent this? And same below

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 17]
```diff
@@ -0,0 +1,410 @@
...
+  · apply Or.intro_right; rw [hB]
+    simp only [Set.top_eq_univ, Set.image_univ, Set.range_eq_univ, hf]
+
+@[to_additive]
+theorem IsTrivialBlock.preimage {φ : M → N} {f : α →ₑ[φ] β}
+    (hf : Function.Injective f) {B : Set β} (hB : IsTrivialBlock B) :
+    IsTrivialBlock (f ⁻¹' B) := by
+  cases' hB with hB hB
+  · apply Or.intro_left; exact Set.Subsingleton.preimage hB hf
+  · apply Or.intro_right; simp only [hB, Set.top_eq_univ]; apply Set.preimage_univ
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:80]: This has nothing to do with primitive actions, right? Can this move to an earlier file?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 18]
```diff
@@ -0,0 +1,410 @@
...
+  rfl
+
+@[to_additive]
+theorem Block.boundedOrderOfMem.bot_eq (a : X) :
+    ((Block.boundedOrderOfMem G a).bot : Set X) = {a} :=
+  rfl
+
+@[to_additive]
+theorem Block.mem_is_nontrivial_order_of_nontrivial [Nontrivial X] (a : X) :
+    Nontrivial { B : Set X // a ∈ B ∧ IsBlock G B } := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:297]: This can be an instance

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 19]
```diff
@@ -0,0 +1,410 @@
...
+end Stabilizer
+
+section Normal
+
+variable {M : Type*} [Group M] {α : Type*} [MulAction M α]
+
+/-- If a subgroup acts nontrivially, then the type is nontrivial -/
+@[to_additive "If a subgroup acts nontrivially, then the type is nontrivial"]
+theorem isnontrivial_of_nontrivial_action {N : Subgroup M} (h : fixedPoints N α ≠ ⊤) :
+    Nontrivial α := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:372]: This too has nothing to do with primitive actions, right?

File: Mathlib/GroupTheory/GroupAction/Transitive.lean [hunk 20]
```diff
@@ -0,0 +1,96 @@
...
+- `IsPretransitive.mk_base G a` shows that `IsPretransitive G X`
+iff every element is translated from `a`
+
+- `IsPretransitive.iff_orbit_eq_top G a` shows that `IsPretransitive G X`
+iff the `orbit G a` is full.
+
+
+-/
+
+variable (G : Type _) [Group G] {X : Type _} [MulAction G X]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Transitive.lean:33]:
```suggestion
variable (G : Type*) [Group G] {X : Type _} [MulAction G X]
```
Here and everywhere else

File: Mathlib/GroupTheory/GroupAction/Transitive.lean [hunk 21]
```diff
@@ -0,0 +1,96 @@
...
+
+namespace MulAction.IsPretransitive
+
+open MulAction
+
+variable {G}
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Transitive.lean:39]: Why not declare `G` implicit from the start?

**Comment by AntoineChambert-Loir** [comment]
I can do that if that helps. I hope tomorrow.

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean:73]: Why not, although it is not in par with the next lemma (that uses Fintype.card).

File: Mathlib/GroupTheory/GroupAction/Blocks.lean
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:1]: (fear)

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:352]: Isn't it just below?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:80]: moved to blocks

File: Mathlib/GroupTheory/GroupAction/Blocks.lean
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:1]: This now looks like a decent chunk of your PR. Can this be made a preliminary PR?

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:1]: At once.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:1]: #21284

**Comment by AntoineChambert-Loir** [comment]
#21285 for transitive actions

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 22]
```diff
@@ -0,0 +1,304 @@
...
+section Primitive
+
+variable (G : Type*) (X : Type*)
+
+-- Note : if the action is degenerate, singletons may not be blocks.
+/-- An additive action is preprimitive if it is pretransitive and
+  the only blocks are the trivial ones -/
+class _root_.AddAction.IsPreprimitive [VAdd G X] extends AddAction.IsPretransitive G X : Prop where
+/-- An action is preprimitive if it is pretransitive and
+the only blocks are the trivial ones -/
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:66]:
```suggestion
  /-- An action is preprimitive if it is pretransitive and
  the only blocks are the trivial ones -/
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 23]
```diff
@@ -0,0 +1,304 @@
...
+
+namespace MulAction
+
+section Primitive
+
+variable (G : Type*) (X : Type*)
+
+-- Note : if the action is degenerate, singletons may not be blocks.
+/-- An additive action is preprimitive if it is pretransitive and
+  the only blocks are the trivial ones -/
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:63]:
```suggestion
the only blocks are the trivial ones -/
```
Same below

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 24]
```diff
@@ -0,0 +1,304 @@
...
+
+/-- An additive action of an additive group is quasipreprimitive if any normal subgroup
+  that has no fixed point acts pretransitively -/
+class _root_.AddAction.IsQuasipreprimitive
+    [AddGroup G] [AddAction G X] extends AddAction.IsPretransitive G X : Prop where
+  pretransitive_of_normal :
+    ∀ {N : AddSubgroup G} (_ : N.Normal), AddAction.fixedPoints N X ≠ ⊤ →
+      AddAction.IsPretransitive N X
+
+/-- A `mul_action` of a group is quasipreprimitive if any normal subgroup
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:85]: *Very* outdated docstring 😄

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 25]
```diff
@@ -0,0 +1,304 @@
...
+  pretransitive_of_normal :
+    ∀ {N : Subgroup G} (_ : N.Normal), fixedPoints N X ≠ ⊤ → IsPretransitive N X
+
+variable {G X}
+
+namespace IsPreprimitive
+
+@[to_additive]
+theorem has_trivial_blocks [SMul G X] (h : IsPreprimitive G X) {B : Set X}
+    (hB : IsBlock G B) : B.Subsingleton ∨ B = ⊤ := by apply h.has_trivial_blocks'; exact hB
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:98]:
```suggestion
theorem subsingleton_or_eq_univ_of_isBlock [SMul G X] (h : IsPreprimitive G X) {B : Set X}
    (hB : IsBlock G B) : B.Subsingleton ∨ B = univ := by apply h.has_trivial_blocks'; exact hB
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 26]
```diff
@@ -0,0 +1,304 @@
...
+
+variable (G : Type*) (X : Type*)
+
+-- Note : if the action is degenerate, singletons may not be blocks.
+/-- An additive action is preprimitive if it is pretransitive and
+  the only blocks are the trivial ones -/
+class _root_.AddAction.IsPreprimitive [VAdd G X] extends AddAction.IsPretransitive G X : Prop where
+/-- An action is preprimitive if it is pretransitive and
+the only blocks are the trivial ones -/
+  has_trivial_blocks' : ∀ {B : Set X}, AddAction.IsBlock G B → AddAction.IsTrivialBlock B
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:67]:
```suggestion
  isTrivialBlock_of_isBlock : ∀ {B : Set X}, AddAction.IsBlock G B → AddAction.IsTrivialBlock B
```

File: Mathlib/GroupTheory/GroupAction/Transitive.lean [hunk 27]
```diff
@@ -83,4 +82,4 @@ theorem isPretransitive_congr {φ : M → N} {f : α →ₑ[φ] β}
     apply hf.injective
     simp only [hk, map_smulₛₗ]
 
-end MulAction
+end MulAction
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Transitive.lean:85]: Accident?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 28]
```diff
@@ -0,0 +1,304 @@
...
+open scoped BigOperators Pointwise
+
+/-- A pretransitive action on a nontrivial type is preprimitive iff
+    the set of blocks containing a given element is a simple order -/
+@[to_additive
+  "A pretransitive action on a nontrivial type is preprimitive iff
+  the set of blocks containing a given element is a simple order"]
+theorem isPreprimitive_iff_isSimpleOrder_blocks
+    [htGX : IsPretransitive G X] [Nontrivial X] (a : X) :
+    IsPreprimitive G X ↔ IsSimpleOrder { B : Set X // a ∈ B ∧ IsBlock G B } := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:227]:
```suggestion
    IsPreprimitive G X ↔ IsSimpleOrder (BlockMem G a) := by
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 29]
```diff
@@ -0,0 +1,304 @@
...
+end EquivariantMap
+
+section Stabilizer
+
+variable (G : Type*) [Group G] {X : Type*} [MulAction G X]
+
+open scoped BigOperators Pointwise
+
+/-- A pretransitive action on a nontrivial type is preprimitive iff
+    the set of blocks containing a given element is a simple order -/
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:221]:
```suggestion
the set of blocks containing a given element is a simple order -/
```
and everywhere else

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 30]
```diff
@@ -38,8 +38,7 @@ The non-existence of nontrivial blocks is the definition of primitive actions.
 
 - `MulAction.BlockMem` : the type of blocks containing a given element
 
-- `MulAction.BlockMem.boundedOrder` :
-  the type of blocks containing a given element is a bounded order.
+## instance : the type of blocks containing a given element is a bounded order.
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:41]: Do you suggest I enter the automatically created instance name?

Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:41]:
```suggestion
## instance

- The type of blocks containing a given element is a bounded order.
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 31]
```diff
@@ -0,0 +1,299 @@
...
+
+/-- An additive action of an additive group is quasipreprimitive if any normal subgroup
+  that has no fixed point acts pretransitively -/
+class _root_.AddAction.IsQuasipreprimitive
+    [AddGroup G] [AddAction G X] extends AddAction.IsPretransitive G X : Prop where
+  pretransitive_of_normal :
+    ∀ {N : AddSubgroup G} (_ : N.Normal), AddAction.fixedPoints N X ≠ ⊤ →
+      AddAction.IsPretransitive N X
+
+/-- A `mul_action` of a group is quasipreprimitive if any normal subgroup
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:85]:
```suggestion
/-- A `MulAction` of a group is quasipreprimitive if any normal subgroup
```

File: Mathlib/GroupTheory/GroupAction/Transitive.lean (hunk 27 above)
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Transitive.lean:85]:
```suggestion
```

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 32]
```diff
@@ -104,6 +108,18 @@ theorem smul_cancel_of_non_zero_divisor {M R : Type*} [Monoid M] [NonUnitalNonAs
 namespace MulAction
 variable {G α β : Type*} [Group G] [MulAction G α] [MulAction G β]
 
+/-- If a subgroup acts nontrivially, then the type is nontrivial -/
+@[to_additive "If a subgroup acts nontrivially, then the type is nontrivial"]
+theorem isnontrivial_of_nontrivial_action {H : Subgroup G} (h : fixedPoints H α ≠ ⊤) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:113]:
```suggestion
theorem nontrivial_of_fixedPoints_ne_univ {H : Subgroup G} (h : fixedPoints H α ≠ univ) :
```
and can you prove `fixedPoints_of_subsingleton` the contrapositive?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 33]
```diff
@@ -38,8 +38,9 @@ The non-existence of nontrivial blocks is the definition of primitive actions.
 
 - `MulAction.BlockMem` : the type of blocks containing a given element
 
-- `MulAction.BlockMem.boundedOrder` :
-  the type of blocks containing a given element is a bounded order.
+## instance
+
+- The type of blocks containing a given element is a bounded order.
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:43]: I still don't understand this change. The name is wrong, I agree, but I don't think instances should necessarily be listed separately
```suggestion
- `MulAction.BlockMem.instBoundedOrder` :
  the type of blocks containing a given element is a bounded order.
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 34]
```diff
@@ -0,0 +1,298 @@
...
+      simp only [← Subtype.coe_inj, Subtype.coe_mk] at hB'
+    · left; rw [hB']; exact Set.subsingleton_singleton
+    · right; rw [hB']; rfl
+
+/-- A pretransitive action is preprimitive
+iff the stabilizer of any point is a maximal subgroup (Wielandt, th. 7.5) -/
+@[to_additive
+  "A pretransitive action is preprimitive
+  iff the stabilizer of any point is a maximal subgroup (Wielandt, th. 7.5)"]
+theorem maximal_stabilizer_iff_preprimitive
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:250]:
```suggestion
theorem isCoatom_stabilizer_iff_isPreprimitive
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 35]
```diff
@@ -0,0 +1,298 @@
...
+variable (G : Type*) [Group G] {X : Type*} [MulAction G X]
+
+open scoped BigOperators Pointwise
+
+/-- A pretransitive action on a nontrivial type is preprimitive iff
+the set of blocks containing a given element is a simple order -/
+@[to_additive
+  "A pretransitive action on a nontrivial type is preprimitive iff
+  the set of blocks containing a given element is a simple order"]
+theorem isPreprimitive_iff_isSimpleOrder_blocks
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:225]:
```suggestion
theorem isPreprimitive_iff_isSimpleOrder_blockMem
```
/maybe turn it around and make it simp

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 36]
```diff
@@ -0,0 +1,298 @@
...
+  rw [← OrderIso.isCoatom_iff (block_stabilizerOrderIso G a), OrderIso.map_bot]
+
+/-- In a preprimitive action, stabilizers are maximal subgroups -/
+@[to_additive "In a preprimitive action, stabilizers are maximal subgroups."]
+theorem hasMaximalStabilizersOfPreprimitive
+    [hnX : Nontrivial X] (hpGX : IsPreprimitive G X) (a : X) :
+    IsCoatom (stabilizer G a) := by
+  haveI : IsPretransitive G X := hpGX.toIsPretransitive
+  rw [maximal_stabilizer_iff_preprimitive]
+  exact hpGX
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:265]:
```suggestion
  rwa [maximal_stabilizer_iff_preprimitive]
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 37]
```diff
@@ -0,0 +1,298 @@
...
+    [htGX : IsPretransitive G X] [hnX : Nontrivial X] (a : X) :
+    IsCoatom (stabilizer G a) ↔ IsPreprimitive G X := by
+  rw [isPreprimitive_iff_isSimpleOrder_blocks G a,
+    ← Set.isSimpleOrder_Ici_iff_isCoatom]
+  simp only [isSimpleOrder_iff_isCoatom_bot]
+  rw [← OrderIso.isCoatom_iff (block_stabilizerOrderIso G a), OrderIso.map_bot]
+
+/-- In a preprimitive action, stabilizers are maximal subgroups -/
+@[to_additive "In a preprimitive action, stabilizers are maximal subgroups."]
+theorem hasMaximalStabilizersOfPreprimitive
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:260]:
```suggestion
theorem isCoatom_stabilizer_of_isPreprimitive
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 38]
```diff
@@ -0,0 +1,298 @@
...
+    IsPreprimitive N β := by
+  have : IsPretransitive N β := h.toIsPretransitive.of_surjective_map hf
+  apply IsPreprimitive.mk
+  · intro B hB
+    rw [← Set.image_preimage_eq B hf]
+    apply IsTrivialBlock.image hf
+    exact h.has_trivial_blocks (IsBlock.preimage f hB)
+
+@[to_additive]
+theorem IsPreprimitive.iff_of_bijective
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:199]:
```suggestion
theorem isPreprimitive_congr
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 39]
```diff
@@ -0,0 +1,298 @@
...
+
+namespace IsPreprimitive
+
+@[to_additive]
+theorem subsingleton_or_eq_univ_of_isBlock [SMul G X] (h : IsPreprimitive G X) {B : Set X}
+    (hB : IsBlock G B) : B.Subsingleton ∨ B = .univ :=
+  h.has_trivial_blocks hB
+
+@[to_additive]
+theorem on_subsingleton [SMul G X] [Nonempty G] [Subsingleton X] :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:102]:
```suggestion
theorem of_subsingleton [SMul G X] [Nonempty G] [Subsingleton X] :
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 40]
```diff
@@ -0,0 +1,298 @@
...
+class IsPreprimitive [SMul G X] extends IsPretransitive G X : Prop where
+/-- An action is preprimitive if it is pretransitive and
+the only blocks are the trivial ones -/
+  has_trivial_blocks : ∀ {B : Set X}, IsBlock G B → IsTrivialBlock B
+
+/-- An additive action of an additive group is quasipreprimitive if any normal subgroup
+that has no fixed point acts pretransitively -/
+class _root_.AddAction.IsQuasipreprimitive
+    [AddGroup G] [AddAction G X] extends AddAction.IsPretransitive G X : Prop where
+  pretransitive_of_normal :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:81]:
```suggestion
  isPretransitive_of_normal :
```

File: Mathlib/GroupTheory/GroupAction/Basic.lean (hunk 32 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Basic.lean:113]: I observed that it was not necessary to introduce a `Subgroup`. It is enough to prove it at the level of `G`.

**Comment by AntoineChambert-Loir** [comment]
I wonder whether the hypothesis `IsPreprimitive G X` couldn't/shouldn't most of the time be passed as a typeclass hyp.

**Review by YaelDillies — COMMENTED** [review]
Yes, that's a good point. You even already made it a class. Do you want to switch over?

**Comment by riccardobrasca** [comment]
Does this include all the changes from #12048?

**Comment by AntoineChambert-Loir** [comment]
it should. i can't check until tonight

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 41]
```diff
@@ -104,6 +108,19 @@ theorem smul_cancel_of_non_zero_divisor {M R : Type*} [Monoid M] [NonUnitalNonAs
...
+  apply Set.eq_univ_of_forall
+  simp only [mem_fixedPoints]
+  intro x hx
+  apply Subsingleton.elim ..
+
+/-- If a group acts nontrivially, then the type is nontrivial -/
+@[to_additive "If a subgroup acts nontrivially, then the type is nontrivial."]
+theorem nontrivial_of_fixedPoints_ne_univ (h : fixedPoints G α ≠ .univ) :
+    Nontrivial α :=
+  Or.resolve_left (subsingleton_or_nontrivial α) (fun _ ↦ h fixedPoints_of_subsingleton)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:122]: nit:
```suggestion
  (subsingleton_or_nontrivial α).resolve_left fun _ ↦ h fixedPoints_of_subsingleton
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 42]
```diff
@@ -0,0 +1,282 @@
...
+  namely, it is pretransitive and the only blocks are ⊤ and subsingletons.
+  (The pretransitivity assumption is essentially trivial,
+  because orbits are blocks, unless the action itself is trivial.)
+
+  The notion which is introduced in classical books on group theory
+  is restricted to group actions.
+  In fact, it may be irrelevant if the action is degenerate,
+  when “trivial blocks” might not be blocks.
+  Moreover, the classical notion is *primitive*,
+  which assumes moreover that `X` is not empty.
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:28]:
```suggestion
  which further assumes that `X` is not empty.
```
reads a bit better IMO

**Comment by riccardobrasca** [comment]
> it should. i can't check until tonight

OK, this LGTM. If all the comments in the other PR have been taken into account let's merge it.

bors d+

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 43]
```diff
@@ -0,0 +1,282 @@
...
+/-- An additive action of an additive group is quasipreprimitive if any normal subgroup
+that has no fixed point acts pretransitively -/
+class _root_.AddAction.IsQuasipreprimitive
+    [AddGroup G] [AddAction G X] extends AddAction.IsPretransitive G X : Prop where
+  isPretransitive_of_normal :
+    ∀ {N : AddSubgroup G} (_ : N.Normal), AddAction.fixedPoints N X ≠ ⊤ →
+      AddAction.IsPretransitive N X
+
+/-- A `MulAction` of a group is quasipreprimitive if any normal subgroup
+that has no fixed point acts pretransitively -/
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:88]: The multiplicative and additive docstrings don't match

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 44]
```diff
@@ -0,0 +1,282 @@
...
+@[to_additive]
+class IsQuasipreprimitive [Group G] [MulAction G X] extends IsPretransitive G X : Prop where
+  isPretransitive_of_normal :
+    ∀ {N : Subgroup G} [N.Normal], fixedPoints N X ≠ ⊤ → IsPretransitive N X
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:92]: nor does the binder type of `N.Normal`

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 45]
```diff
@@ -0,0 +1,282 @@
...
+  isTrivialBlock_of_isBlock : ∀ {B : Set X}, IsBlock G B → IsTrivialBlock B
+
+open IsPreprimitive
+
+/-- An additive action of an additive group is quasipreprimitive if any normal subgroup
+that has no fixed point acts pretransitively -/
+class _root_.AddAction.IsQuasipreprimitive
+    [AddGroup G] [AddAction G X] extends AddAction.IsPretransitive G X : Prop where
+  isPretransitive_of_normal :
+    ∀ {N : AddSubgroup G} (_ : N.Normal), AddAction.fixedPoints N X ≠ ⊤ →
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:84]:
```suggestion
    ∀ {N : AddSubgroup G} (_ : N.Normal), AddAction.fixedPoints N X ≠ univ →
```
Same everywhere else

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 46]
```diff
@@ -0,0 +1,282 @@
...
+      apply H _ (hB.translate g)
+      rw [← hg]
+      use b
+
+/-- If the action is not trivial, then the trivial blocks condition implies preprimitivity
+(pretransitivity is automatic) (based condition) -/
+@[to_additive
+  "If the action is not trivial, then the trivial blocks condition implies preprimitivity
+  (pretransitivity is automatic) (based condition)"]
+theorem isPreprimitive_of_isTrivialBlock_of_not_mem_fixedPoints {a : X} (ha : a ∉ fixedPoints G X)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:141]:
```suggestion
theorem IsPreprimitive.of_isTrivialBlock_of_not_mem_fixedPoints {a : X} (ha : a ∉ fixedPoints G X)
```

Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:141]: Oh sorry, I didn't see you had reverted this. `IsPreprimitive.of_isTrivialBlock_of_not_mem_fixedPoints` is nice because you get to use anonymous dot notation: It lets you write things like `IsPreprimitive G X := .of_isTrivialBlock_of_not_mem_fixedPoints ...`

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 47]
```diff
@@ -0,0 +1,282 @@
...
+      exact mem_orbit a g
+    · intro x; rw [← MulAction.mem_orbit_iff, H]; exact Set.mem_univ x
+  { isTrivialBlock_of_isBlock {B} hB := by
+      cases Set.eq_empty_or_nonempty B with
+      | inl h => left; rw [h]; exact Set.subsingleton_empty
+      | inr h =>
+        obtain ⟨b, hb⟩ := h
+        obtain ⟨g, hg⟩ := exists_smul_eq G b a
+        rw [← IsTrivialBlock.smul_iff g]
+        exact H ⟨b, hb, hg⟩ (hB.translate g) }
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:161]: This doesn't work here because I need the result of `toIsPretransitive` to exist as a typeclass hypothesis for the second part.

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 48]
```diff
@@ -0,0 +1,282 @@
...
+
+section Normal
+
+variable {M : Type*} [Group M] {α : Type*} [MulAction M α]
+
+/-- In a preprimitive action, any normal subgroup that acts nontrivially is pretransitive
+(Wielandt, th. 7.1)-/
+@[to_additive "In a preprimitive additive action,
+  any normal subgroup that acts nontrivially is pretransitive (Wielandt, th. 7.1)"]
+theorem IsPreprimitive.isQuasipreprimitive [IsPreprimitive M α] :
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:264]: OK

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 46 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:141]: But then, I should do the same for `…_of_subsingleton`, no?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 47 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean]: Oh, right!

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 49]
```diff
@@ -0,0 +1,279 @@
...
+variable (G : Type*) [Group G] {X : Type*} [MulAction G X]
+
+open scoped BigOperators Pointwise
+
+/-- A pretransitive action on a nontrivial type is preprimitive iff
+the set of blocks containing a given element is a simple order -/
+@[to_additive (attr := simp)
+  "A pretransitive action on a nontrivial type is preprimitive iff
+  the set of blocks containing a given element is a simple order"]
+theorem isSimpleOrderBlockMem_iff_isPreprimitive [IsPretransitive G X] [Nontrivial X] (a : X) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:213]:
```suggestion
theorem isSimpleOrder_blockMem_iff_isPreprimitive [IsPretransitive G X] [Nontrivial X] (a : X) :
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 50]
```diff
@@ -0,0 +1,279 @@
...
+
+/-- An additive action of an additive group is quasipreprimitive if any normal subgroup
+that has no fixed point acts pretransitively -/
+class _root_.AddAction.IsQuasiPreprimitive
+    [AddGroup G] [AddAction G X] extends AddAction.IsPretransitive G X : Prop where
+  isPretransitive_of_normal :
+    ∀ {N : AddSubgroup G} [N.Normal], AddAction.fixedPoints N X ≠ .univ →
+      AddAction.IsPretransitive N X
+
+/-- An  action of a group is quasipreprimitive if any normal subgroup
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:87]:
```suggestion
/-- An action of a group is quasipreprimitive if any normal subgroup
```

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 51]
```diff
@@ -0,0 +1,279 @@
...
+  have : IsPretransitive G X := by
+    rw [isPretransitive_iff_base a]
+    cases' H (mem_orbit_self a) (IsBlock.orbit a) with H H
+    · exfalso; apply ha
+      rw [Set.subsingleton_iff_singleton (mem_orbit_self a)] at H
+      simp only [mem_fixedPoints]
+      intro g
+      rw [← Set.mem_singleton_iff]; rw [← H]
+      exact mem_orbit a g
+    · intro x; rw [← MulAction.mem_orbit_iff, H]; exact Set.mem_univ x
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:151]: Shouldn't you make this a lemma about `IsPretransitive` in an earlier file?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 46 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:139]: Yes, absolutely! And a few other ones too

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 52]
```diff
@@ -184,11 +184,11 @@ theorem isPreprimitive_of_surjective [IsPreprimitive M α] (hf : Function.Surjec
       exact isTrivialBlock_of_isBlock (IsBlock.preimage f hB) }
 
 @[to_additive]
-theorem isPreprimitive_congr (hφ : Function.Surjective φ) (hf : Function.Bijective f) :
+theorem IsPreprimitive.congr (hφ : Function.Surjective φ) (hf : Function.Bijective f) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:187]: This one was good as 
```suggestion
theorem isPreprimitive_congr (hφ : Function.Surjective φ) (hf : Function.Bijective f) :
```
since its conclusion is not `IsPreprimitive _ _` but `Iff _ _`

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 51 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean]: finally, I'd rather not, because it's really about the consequence of having trivial blocks only, which is primitivity, so it wouldn't really make sense in another file.

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 53]
```diff
@@ -0,0 +1,279 @@
...
+  isPretransitive_of_normal :
+    ∀ {N : Subgroup G} [N.Normal], fixedPoints N X ≠ .univ → IsPretransitive N X
+
+variable {G X}
+
+@[to_additive]
+theorem IsPreprimitive.subsingleton_or_eq_univ_of_isBlock
+    [SMul G X] [IsPreprimitive G X] {B : Set X} (hB : IsBlock G B) :
+    B.Subsingleton ∨ B = .univ :=
+  isTrivialBlock_of_isBlock hB
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:100]: I'm wondering. Should this be unnamespaced like so?
```suggestion
theorem subsingleton_or_eq_univ_of_isBlock
    [SMul G X] [IsPreprimitive G X] {B : Set X} (hB : IsBlock G B) :
    B.Subsingleton ∨ B = .univ :=
  isTrivialBlock_of_isBlock hB
```
There's no `IsPreprimitive` assumption to dot notate on and hopefully primitivity of an action will usually come from context, so no need to bother people with it in the name?

**Review by YaelDillies — APPROVED** [review]
Final comments. Thank you for bearing with me!

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 53 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:100]: Wouldn't IsBlock be an appropriate namespace?

Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:100]: Ah yes, that was the extra argument: moving it out of the `IsPreprimitive` namespace means you can move it into the `IsBlock` namespace. So 👍 from me

**Comment by AntoineChambert-Loir** [comment]
Thank you for your diligence. It's often more work but in the end, it's worth the effort.
